US05824691
28% Methanolic sodium methoxide (6.2 ml) was added to a solution of guanidine hydrochloride (3.2 g) in dry methanol (40.0 ml) and the mixture was stirred for 30 minutes at ambient temperature. To the mixture was added methyl 3-methylsulfonyl-5-(pyrrol-1-yl)benzoate (1.9 g) and the mixture was stirred for 7 hours at the same temperature. The solvent was removed by concentration and the residue was added to a mixture of ethyl acetate, tetrahydrofuran and water. The separated organic layer was washed with brine and dried over magnesium sulfate. The residue was obtained by evaporating a solvent, and purified by column chromatography on alumina eluting with a mixture of chloroform and methanol (19:1, V/V). The fractions containing the desired product were collected and evaporated in vacuo. The residue was recrystallized from a mixture of methanol and diisopropyl ether to give 2-[3-methylsulfonyl-5-(pyrrol-1-yl)benzoyl]guanidine (0.44 g).

reactant | sodium methoxide | 6.2 ml | C[O-].[Na+]
reactant | guanidine hydrochloride | 3.2 g | Cl.NC(=N)N
reactant | methyl 3-methylsulfonyl-5-(pyrrol-1-yl)benzoate | 1.9 g | CS(=O)(=O)C=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C13H13NO4S
solvent | methanol | 40.0 ml | CO | CH4O
product | 2-[3-methylsulfonyl-5-(pyrrol-1-yl)benzoyl]guanidine | 0.44 g | CS(=O)(=O)C=1C=C(C(=O)N=C(N)N)C=C(C1)N1C=CC=C1 | C13H14N4O3S
